US05817603
N-n-Propyl-N'-[4-chloro-3-(2-n-propylcarbamoylprop-1-en-1-yl)-phenyl]-3,4,5,6-tetrahydrophthalamide (compound Ia.01)
A solution of 10.9 g of N-[4-chloro-3-(2-chloro-carbonylprop-1-en-1-yl)-phenyl]-3,4,5,6-tetrahydrophthalimide in 200 ml of ethyl acetate was added dropwise to a solution of 5.9 g of n-propylamine in about 150 ml of ethyl acetate while cooling with ice. The mixture was stirred for 3 hours at about 20° C., after which the solid formed was separated off, washed twice with 5% by weight aqueous hydrochloric acid and then once with petroleum ether and then dried under reduced pressure at 40° C. The crude product was recrystallized from ethyl acetate. Mp.: 130°131° C.

reactant | N-[4-chloro-3-(2-chloro-carbonylprop-1-en-1-yl)-phenyl]-3,4,5,6-tetrahydrophthalimide | 10.9 g | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)C=C(C=C=O)Cl | C18H13Cl2NO3
reactant | n-propylamine | 5.9 g | C(CC)N | C3H9N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | about 150 ml | C(C)(=O)OCC | C4H8O2
product | N-n-Propyl-N'-[4-chloro-3-(2-n-propylcarbamoylprop-1-en-1-yl)-phenyl]-3,4,5,6-tetrahydrophthalamide | C(CC)NC(C1=C(C(=O)NC2=CC(=C(C=C2)Cl)C=C(C)C(NCCC)=O)CCCC1)=O | C24H32ClN3O3
